US06716851B2
4-(2-Chloro-5-methoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2-chloro-5-methoxyaniline (37 mg, 0.193 mmol) similar to Example 13 and isolated as a white solid (10 mg, 14%). 1H NMR (CDCl3): 9.70 (d, J=1.8 Hz, 1H), 8.77-8.74 (m, 2H), 7.86 (s, 1H), 7.67 (s, 1H), 7.48-7.44 (m, 1H), 7.42 (s, 1H), 7.39 (s, 1H), 6.96 (s, 1H), 6.76 (dd, J=3.0, 9.3 Hz, 1H), 3.90 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2-chloro-5-methoxyaniline | 0.193 mmol, 37 mg | ClC1=C(N)C=C(C=C1)OC | C7H8ClNO
product | 4-(2-Chloro-5-methoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | ClC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C=C1)OC | C17H12ClF3N4O
